US04321394
194 g of diphenyl carbodiimide, 31 g of ethylene glycol and 0.05 g of Sn(II)-(2-ethyl hexoate) are dissolved in 200 g of xylene. The reaction solution is heated to reflux temperature, diphenyl urea being precipitated. Concentration of the xylene solution gives 102 g (86% of the theoretical) of 2-phenyl imino-3-phenyl oxazolidine. Mp: 115° to 117° C.

reactant | diphenyl carbodiimide | 194 g | C1(=CC=CC=C1)N=C=NC1=CC=CC=C1 | C13H10N2
reactant | ethylene glycol | 31 g | C(CO)O | C2H6O2
reactant | diphenyl urea | C1(=CC=CC=C1)NC(NC1=CC=CC=C1)=O | C13H12N2O
reactant | xylene | 200 g | C=1(C(=CC=CC1)C)C | C8H10
product | 2-phenyl imino-3-phenyl oxazolidine | C1(=CC=CC=C1)C1OCC(N1C1=CC=CC=C1)=N | C15H14N2O
